US04840943
To a solution of 1,2β-methylenandrost-4-ene-3,17-dione (0.2 g) in tert-butanol (5 ml) potassium tert-butoxide (0.26 g) is added and the mixture stirred vigorously for 24 hours at room temperature. Then ice water and diethyl ether are added, the ethereal extract washed with water, dried, and concentrated under reduced pressure. The residue is chromatographed on silica gel using n-hexane/ethyl acetate to give 0.15 g of 1,2β-methylenandrost-4-ene-3,6,17-trione. Found: C 81.01, H 8.05. C20H24O2 requires: C 81.04, H 8.16.

reactant | 1,2β-methylenandrost-4-ene-3,17-dione | 0.2 g | C1C2[C@H]1C(C=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O | C20H26O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tert-butanol | 5 ml, 0.26 g | C(C)(C)(C)O | C4H10O
product | 1,2β-methylenandrost-4-ene-3,6,17-trione | 0.15 g | C1C2[C@H]1C(C=C1C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O)=O | C20H24O3
